* C:\Users\Vaishnavi\OneDrive\Documents\LTspice\icdlabproj.asc
M1 N001 out N002 N001 PMOS
M2 N001 N002 N003 N001 PMOS
M3 N001 N003 N004 N001 PMOS
M5 N001 N005 out N001 PMOS
M6 N002 out N006 0 NMOS
M7 N003 N002 N007 0 NMOS
M8 N004 N003 N008 0 NMOS
M9 N005 N004 N009 0 NMOS
M10 out N005 N010 0 NMOS
M4 N001 N004 N005 N001 PMOS
M11 N006 N011 0 0 NMOS
M12 N007 N011 0 0 NMOS
M13 N008 N011 0 0 NMOS
M15 N010 N011 0 0 NMOS
M14 N009 N011 0 0 NMOS
V1 N001 0 2
V2 N011 0 1.15
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Vaishnavi\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 50n
.backanno
.end
